US06673795B2
A solution of 10.0 g (48 mmol) of 2,4,6-trichloro-5-cyano-pyrimidine in 150 ml of dioxane was treated at 0° C. with 16.4 ml (96 mmol) of N-ethyl-diisopropylamine, followed by 8.7 ml (144 mmol) of ethanolamine. While warming up to room temperature, yellowish solid material started to precipitate. The yellow solution was stirred overnight, then the resulting material was separated by filtration and the mother liquor evaporated to dryness. The residue was stirred with dichloromethane and the solid filtered. To eliminate the ethanolammonium chloride, the two combined solid fractions were treated with 100 ml of ethanol, thereupon the resulting product was washed with 150 ml of dichloromethane. After drying under reduced pressure, 10.45 g (40.6 mmol, 84.5 of theory) of 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile were obtained as a yellowish powder.

reactant | 2,4,6-trichloro-5-cyano-pyrimidine | 48 mmol, 10.0 g | ClC1=NC(=C(C(=N1)Cl)C#N)Cl | C5Cl3N3
reactant | N-ethyl-diisopropylamine | 96 mmol, 16.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethanolamine | 144 mmol, 8.7 ml | C(O)CN | C2H7NO
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | 40.6 mmol, 10.45 g | ClC1=NC(=NC(=C1C#N)NCCO)NCCO | C9H12ClN5O2
